US06518423B1
2-[N-(tert-Butoxycarbonyl)aminomethyl]imidazole
To an aqueous solution (10 ml) of 0.34 g of 2-aminomethylimidazole dihydrochloride were added 0.32 g of sodium hydroxide and 0.34 g of sodium hydrogencarbonate. Then a tetrahydrofuran solution (10 ml) of 1.05 g of di-tert-butyl dicarbonate was added thereto and the resulting mixture was stirred at room temperature for 16 hours. After adding an aqueous solution of disodium hydrogenphosphate, the resulting mixture was extracted with ethyl acetate. The organic layer was washed successively with water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After concentrating under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 0.20 g of the title compound as a colorless powder.

reactant | 2-aminomethylimidazole dihydrochloride | 10 ml, 0.34 g | Cl.Cl.NCC=1NC=CN1
reactant | sodium hydroxide | 0.32 g | [OH-].[Na+]
reactant | sodium hydrogencarbonate | 0.34 g | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 1.05 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | disodium hydrogenphosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[N-(tert-Butoxycarbonyl)aminomethyl]imidazole | 0.20 g | C(C)(C)(C)OC(=O)NCC=1NC=CN1 | C9H15N3O2
